US07425636B2
2-Aminoacetophenone hydrochloride (4.56 g, 26.6 mmol) was dissolved in dichloromethane (250 mL). To the solution was added triethylamine (9.30 mL, 66.7 mmol), and the mixture was stirred at room temperature for 10 minutes. After the reaction mixture was cooled to 0° C., chloromethanesulfonyl chloride (purity 90%, 3.60 mL, 36.3 mmol) was added to the mixture, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added 2 mol/L hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. To the residue was added diethyl ether, and the deposited crystals were collected by filtration and dried to obtain 2-(chloromethylsulfonylamino)acetophenone (5.00 g, 76%).

reactant | 2-Aminoacetophenone hydrochloride | 26.6 mmol, 4.56 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | triethylamine | 66.7 mmol, 9.30 mL | C(C)N(CC)CC | C6H15N
reactant | chloromethanesulfonyl chloride | 36.3 mmol, 3.60 mL | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2-(chloromethylsulfonylamino)acetophenone | 5.00 g, 76% | ClCS(=O)(=O)NCC(=O)C1=CC=CC=C1 | C9H10ClNO3S
